US07622463B2
Method O: 9-Benzyl-2-chloro-8,9-dihydro-5,7,7-trimethyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one
2-Chloro-8,9-dihydro-5,7,7-trimethyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one (50 mg, 0.21 mmol) and benzylbromide (30 μl, 0.25 mmol) in DMA (0.5 ml) was treated with sodium hydride 60% oil dispersion (9 mg, 0.23 mmol) at room temperature. The mixture was stirred at room temperature for 5 hours. The reaction mixture was concentrated under reduced pressure. The residue was purified by column chromatography (50% EtOAc in hexanes, loaded on silica, ˜50 mL silica) to give the title compound as a white solid (63 mg, 91%). NMR DMSO D6 1.00 (6H, s), 3.22 (3H, s), 3.53 (2H, s), 4.91 (2H, s), 7.28-7.39 (5H, m), 8.12 (1H, s); MS (ES+) 331.

reactant | 2-Chloro-8,9-dihydro-5,7,7-trimethyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 0.21 mmol, 50 mg | ClC=1N=CC2=C(NCC(C(N2C)=O)(C)C)N1 | C10H13ClN4O
reactant | benzylbromide | 0.25 mmol, 30 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | [H-].[Na+]
solvent | DMA | 0.5 ml | CC(=O)N(C)C | C4H9NO
product | 9-Benzyl-2-chloro-8,9-dihydro-5,7,7-trimethyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 63 mg, 91% | C(C1=CC=CC=C1)N1C2=C(N(C(C(C1)(C)C)=O)C)C=NC(=N2)Cl | C17H19ClN4O
